US07560551B2
A pressure vessel was charged with 6.35 mL of water and degassed with nitrogen for 0.5 h. To this vessel was added potassium acetate (2.31 g, 23.5 mmol), 2-fluoropyridine-3-boronic acid (2.48 g, 17.6 mmol), 4-chloropyridin-2-amine (1.51 g, 11.7 mmol), dichloro-bis (di-tert-butylphenylphosphino)Pd(II)(0.146 g, 0.235 mmol) and 58.5 mL CH3CN. The mixture was purged under nitrogen for several additional minutes, and the pressure bottle was sealed. The reaction mixture was heated to 85° C. for 15 h. Upon cooling the layers were separated, and the organic portion was dried with Na2SO4 and concentrated. The resulting solid was triturated with ethyl acetate/diethyl ether to provide 4-(2-fluoropyridin-3-yl)pyridin-2-amine as a tan solid. MS m/z=190 [M+H]+. Calc'd for C10H8FN3: 189.19.

reactant | water | 6.35 mL | O | H2O
reactant | potassium acetate | 23.5 mmol, 2.31 g | C(C)(=O)[O-].[K+]
reactant | 2-fluoropyridine-3-boronic acid | 17.6 mmol, 2.48 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | 4-chloropyridin-2-amine | 11.7 mmol, 1.51 g | ClC1=CC(=NC=C1)N | C5H5ClN2
solvent | CH3CN | 58.5 mL | CC#N | C2H3N
product | 4-(2-fluoropyridin-3-yl)pyridin-2-amine | FC1=NC=CC=C1C1=CC(=NC=C1)N | C10H8FN3
